US07342118B2
3-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester
3-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester was reacted with 6,8-Difluoro-3,4-dihydro-1H-naphthalen-2-one to provide the title compound: C13 NMR (100 MHz, CDCl3) 14.1, 16.7, 19.5, 19.6, 28.2, 28.7, 29.6, 29.8, 36.5, 47.2, 51.9, 52.1, 52.7, 56.3, 60.2, 60.9, 101.1, 104.4, 110.6, 130.5, 137.7, 170.0; MS 463.3 m/z (M+1).

reactant | 3-[4-(2-Amino-pentanoylamino)-imidazol-1-yl]-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(CCC)N)=O)=O | C14H24N4O3
reactant | 6,8-Difluoro-3,4-dihydro-1H-naphthalen-2-one | FC=1C=C2CCC(CC2=C(C1)F)=O | C10H8F2O
product | 3-{4-[2-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoylamino]-imidazol-1-yl}-3-methyl-butyric acid methyl ester | COC(CC(C)(C)N1C=NC(=C1)NC(C(CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O)=O | C24H32F2N4O3
